US06166219
A solution containing 1.10 g of N-1-butanesulfonyl-3-amino-4-nitrobenzamide, 0.273 g of sodium iodide, 1.54 g of potassium carbonate, 2.17 g of 2,4-dichlorobenzyl chloride and 10 ml of methanol was stirred at 60° C. for 24 hours. Further, 2.00 g of 2,4-dichlorobenzyl chloride were added thereto, and the mixture was heated at 60° C. for 36 hours. To the reaction solution were added ethyl acetate and a saturated aqueous solution of sodium hydrogencarbonate, and N-1-butanesulfonyl-3-(2,4-dichlorobenzylamino)-4-nitrobenzamide was extracted in the aqueous layer. The organic layer was concentrated to give 0.885 g of N-1-butanesulfonyl-3-(2,4-dichlorobenzylamino)-4-nitrobenzamide.

reactant | N-1-butanesulfonyl-3-amino-4-nitrobenzamide | 1.10 g | C(CCC)S(=O)(=O)NC(C1=CC(=C(C=C1)[N+](=O)[O-])N)=O | C11H15N3O5S
reactant | sodium iodide | 0.273 g | [I-].[Na+]
reactant | potassium carbonate | 1.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dichlorobenzyl chloride | 2.17 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | 2,4-dichlorobenzyl chloride | 2.00 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
product | N-1-butanesulfonyl-3-(2,4-dichlorobenzylamino)-4-nitrobenzamide | 0.885 g | C(CCC)S(=O)(=O)NC(C1=CC(=C(C=C1)[N+](=O)[O-])NCC1=C(C=C(C=C1)Cl)Cl)=O | C18H19Cl2N3O5S
